US07935702B2
11. 5-Trifluoromethyl-6-[8-(5-trifluoromethyl-pyridin-2-ylamino)-pyrido[2,3-b]pyrazin-3-yl]-nicotinamide
To a de-gassed mixture of 6-(8-amino-pyrido[2,3-b]pyrazin-3-yl)-5-trifluoromethyl-nicotinamide (51 mg, 0.15 mmol), cesium carbonate (98 mg, 0.3 mmol), 2-chloro-5-trifluoromethyl pyridine (27 mg, 0.15 mmol) in dioxane (5 mL) under nitrogen, add Pd2 dba3 (9 mg) and xantphos (7 mg). Stir the mixture at 100° C. for 3 hours, cool, add water (10 mL) and extract with EtOAc. Dry the combined extracts over Na2SO4, concentrate under vacuum. Purify by chromatography eluting with DCM/MeOH/ammonium hydroxide mixture to give the title compound. MS 480.15 (M+1). 1H NMR δ (CDCl3) 9.82 (1H, s), 9.30-9.32 (2H, m), 8.98 (1H, d), 8.71 (1H, d), 8.62 (1H, s), 8.49 (1H, d), 7.98 (1H, dd), 7.50 (1H, d). The IC50 determined as described in Example 6 is less than 1 micromolar.

reactant | 6-(8-amino-pyrido[2,3-b]pyrazin-3-yl)-5-trifluoromethyl-nicotinamide | 0.15 mmol, 51 mg | NC1=CC=NC2=NC(=CN=C21)C2=NC=C(C(=O)N)C=C2C(F)(F)F | C14H9F3N6O
reactant | cesium carbonate | 0.3 mmol, 98 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-5-trifluoromethyl pyridine | 0.15 mmol, 27 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | xantphos | 7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 10 mL | O | H2O
product | 5-Trifluoromethyl-6-[8-(5-trifluoromethyl-pyridin-2-ylamino)-pyrido[2,3-b]pyrazin-3-yl]-nicotinamide | FC(C=1C(=NC=C(C(=O)N)C1)C1=CN=C2C(=N1)N=CC=C2NC2=NC=C(C=C2)C(F)(F)F)(F)F | C20H11F6N7O
